US04753953
trans-3-t-Butoxycarbonylamino-4-methylpyrrolidine
A suspension of 1-benzyl-trans-3-t-butoxycarbonylamino-4-methylpyrrolidine (4.8 g) and 10% palladium-on-charcoal (1.8 g) in ethanol (40 ml) was shaken with hydrogen were absorbed under elevated pressure (100 kg/cm2) at 50°-70° C. for 6.5 hours. The catalyst was removed by filtration and the filtrate was evaporated to give the title compound (3.09 g) as brown oil. This oil was gradually solidified at room temperature.

reactant | 1-benzyl-trans-3-t-butoxycarbonylamino-4-methylpyrrolidine | 4.8 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C)NC(=O)OC(C)(C)C | C17H26N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 1.8 g | [Pd] | Pd
product | trans-3-t-Butoxycarbonylamino-4-methylpyrrolidine | 3.09 g | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@H]1C | C10H20N2O2
